US04504616
Ten (10) g of neodymium oxide, 17 g of methacrylic acid and 100 g of water were mixed. The resultant mixture in the form of suspension was stirred as refluxed at 60° C. for three hours. The reaction mixture was filtered to separate off the unaltered solids. The filtrate was concentrated under a vacuum by distillation of water to produce crystals. By washing the crystals with acetone and drying under a vacuum, there was obtained neodymium methacrylate. The yield was 78%. Example Synthesis 2

reactant | neodymium oxide | [O-2].[Nd+3].[O-2].[O-2].[Nd+3]
reactant | methacrylic acid | 17 g | C(C(=C)C)(=O)O | C4H6O2
solvent | water | 100 g | O | H2O
product | neodymium methacrylate | yield was 78% | C(C(=C)C)(=O)[O-].[Nd+3].C(C(=C)C)(=O)[O-].C(C(=C)C)(=O)[O-] | InChI=1S/3C4H6O2.Nd/c3*1-3(2)4(5)6;/h3*1H2,2H3,(H,5,6);/q;;;+3/p-3
